US05206418
28 ml of ethanol and 10 ml of a 2N aqueous sodium hydroxide solution are added to 2.81 g of ethyl 6-(4-chlorophenyl)sulfonylamino-5,6,7,8-tetrahydronaphthalene-2-acetate, and the mixture is stirred at room temperature overnight. After ethanol is removed from the mixture, water is added thereto, and the mixture is washed with methylene chloride. 10% hydrochloric acid is added to the water layer, and the mixture is extracted with ethyl acetate. The extract is washed, dried and evaporated to remove the solvent, and the residue is recrystallized from a mixture of ethyl acetate and n-hexane to give 2.16 g of 6-(4-chlorophenyl)sulfonylamino-5,6,7,8-tetrahydronaphthalene-2-acetic acid as pale brown prism.

reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | ethyl 6-(4-chlorophenyl)sulfonylamino-5,6,7,8-tetrahydronaphthalene-2-acetate | 2.81 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC=2C=CC(=CC2CC1)CC(=O)OCC | C20H22ClNO4S
solvent | ethanol | 28 ml | C(C)O | C2H6O
product | 6-(4-chlorophenyl)sulfonylamino-5,6,7,8-tetrahydronaphthalene-2-acetic acid | 2.16 g, Yield 82% | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC=2C=CC(=CC2CC1)CC(=O)O | C18H18ClNO4S
